US07569579B2
Preparation 19B: (1R,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropanecarbaldehyde
To a solution of 300 mL toluene and (1R,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropanecarbonitrile (12.0 g, 45.57 mmol, 1 eq), accessed via the method of Preparation 3B, at 0° C. was added 59.3 mL 1M diisobutylaluminum hydride (59.3 mmol, 1.3 eq) in tetrahydrofuran. The mixture was stirred at 0° C. for 4 h and then at ambient temperature for 18 h before dilution with 500 mL toluene and 500 mL water. The mixture was stirred for 30 min and then filtered through a pad of celite. The organics were isolated, dried over Na2SO4, filtered and concentrated to give the title compound (7.8 g, 29.3 mmol, 64%) as a yellow oil. 1H NMR (400 MHz, CDCl3) δ 9.39 (s, 1H), 7.39-7.19 (m, 10H), 4.33-4.23 (m, 2H), 3.36-3.33 (m, 1H), 3.03-2.98 (m, 1H), 2.16-2.11(m, 1H), 1.77-1.73 (m, 1H), 1.46-1.43 (m, 1H).

reactant | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
reactant | (1R,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropanecarbonitrile | 45.57 mmol, 12.0 g, 1 eq | C1(=CC=CC=C1)[C@@]1([C@@H](C1)COCC1=CC=CC=C1)C#N | C18H17NO
reactant | diisobutylaluminum hydride | 59.3 mmol, 1M, 59.3 mL, 1.3 eq | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
reactant | water | 500 mL | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (1R,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropanecarbaldehyde | 29.3 mmol, 7.8 g, 64% | C1(=CC=CC=C1)[C@@]1([C@@H](C1)COCC1=CC=CC=C1)C=O | C18H18O2
